US09422267B2
To a solution of 6-fluoropyridin-3-amine (6.05 g, 13 mmol) in dry THF (100 mL) was added 2M solution of isopropylmagnesium chloride in THF (27 mL, 54 mmol) dropwise under nitrogen at 0° C. The resultant mixture was stirred at 0° C. for 20 min. To this solution was added a solution of methyl 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate (5 g, 13 mmol) in THF (20 mL) dropwise at 0° C. and the reaction mixture was allowed to stir at RT for 2 h. The reaction was quenched with saturated ammonium chloride solution (50 mL). The product was extracted with EtOAc (2×40 mL) and the organic layer was dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure gave solid residue which was purified by column chromatography on silica gel using 1-2% MeOH-DCM system as eluent followed by chiral purification to afford (S)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide (2.2 g). 1H NMR (CDCl3, freebase) δ (ppm): 1.22 (d, 6H), 1.90-2.21 (m, 6H), 2.60-2.70 (m, 1H), 2.72 (t, 2H), 2.88 (t, 2H), 2.81-2.96 (m, 1H), 3.60-3.80 (m, 2H), 4.77 (d, 2H), 6.40 (s, 1H), 6.74 (s, 1H), 6.82 (d, 1H), 7.90 (s, 1H), 8.13 (s, 1H). The other enantiomer was prepared using the (R) chiral starting material.

reactant | 6-fluoropyridin-3-amine | 13 mmol, 6.05 g | FC1=CC=C(C=N1)N | C5H5FN2
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | methyl 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate | 13 mmol, 5 g | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)OC)CCC2 | C19H26N6O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 54 mmol, 27 mL | C1CCOC1 | C4H8O
product | (S)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 2.2 g | FC1=CC=C(C=N1)NC(=O)[C@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C23H27FN8O
